US05990105
0.56 g (0.0015 Mol) 4-(2-Bromo-6-pyrrolidin-1-yl-pyridine-4-sulfonyl) -phenylamine, 0.171 g (0.00015 Mol) Pd(PPh3)4 and 0.191 g (0.0021 Mol) isopropenyl boronic acid were stirred at reflux for 18 h in a mixture of dioxane (10 ml) and 2N Na2CO3 (4 ml). Then the solvent was evaporated, the residue was taken up in ethyl acetate, washed with water and brine and dried over Na2SO4. After chromatography on SiO2 with ethyl acetate hexane 1:2 the product containing fractions were evaporated and the residue taken up in hexane. The suspension was stirred for 1 h and then filtered. The residue on the filter was washed with hexane (10 ml) and dried in a high vacuum. It was obtained 0.265 g (52%) 4-(2-isopropenyl-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine as a light yellow solid; mp.: 200-201° C.

reactant | 4-(2-Bromo-6-pyrrolidin-1-yl-pyridine-4-sulfonyl) -phenylamine | 0.0015 Mol, 0.56 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C15H16BrN3O2S
reactant | isopropenyl boronic acid | 0.0021 Mol, 0.191 g | C(=C)(C)B(O)O | C3H7BO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2N, 4 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.00015 Mol, 0.171 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-isopropenyl-6-pyrrolidin-1-yl-pyridine-4-sulfonyl)-phenylamine | 0.265 g, 52% | C(=C)(C)C1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C18H21N3O2S
